US07582626B2
c) 1-(4-Fluoro-benzyl)-4-hydroxy-3-(7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-4a,5,6,7,8,8a-hexahydro-1H-quinolin-2-one
A solution of the crude 2-{(4-fluoro-benzyl)-[2-(7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclohexanecarboxylic acid ethyl ester in ethanol (20 mL) was treated with a 21% w/w solution of sodium ethoxide in ethanol (9.28 g, 28.64 mmol) and stirred for 16 h at 60° C. Upon cooling, the reaction mixture was then quenched with 1.0 M aqueous hydrochloric acid solution (20 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered, and dried in vacuo. The residue was purified by flash column chromatography (Teledyne Isco RediSep Column; 0-50% ethyl acetate in hexanes) to afford the desired product, 1-(4-fluoro-benzyl)-4-hydroxy-3-(7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-4a,5,6,7,8,8a-hexahydro-1H-quinolin-2-one (516 mg, 0.888 mmol, 12.4% over two steps), as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.07-1.81 (8H, m), 2.21-2.34 (1H, m), 3.50-5.03 (3H, m), 7.11-8.03 (7H, m). LC-MS (ESI) calcd for C23H21FIN3O4S 581.03, found 582.1 [M+H+].

reactant | 2-{(4-fluoro-benzyl)-[2-(7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(CCCC1)N(C(CC1=NS(C2=C(N1)C=CC(=C2)I)(=O)=O)=O)CC2=CC=C(C=C2)F | C25H27FIN3O5S
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 28.64 mmol, 9.28 g | C(C)O | C2H6O
product | 1-(4-fluoro-benzyl)-4-hydroxy-3-(7-iodo-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-4a,5,6,7,8,8a-hexahydro-1H-quinolin-2-one | 0.888 mmol, 516 mg, 12.4% | FC1=CC=C(CN2C(C(=C(C3CCCCC23)O)C2=NS(C3=C(N2)C=CC(=C3)I)(=O)=O)=O)C=C1 | C23H21FIN3O4S
